US03987047
9-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 9-hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63, followed by hydrolysis of the intermediate 9-(ethoxy-carbonyloxy)-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester with dilute potassium hydroxide at 30° C.

reactant | 9-hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | OC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C | C14H16N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 9-(ethoxy-carbonyloxy)-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)OC(=O)OCC | C20H24N2O5
reactant | potassium hydroxide | [OH-].[K+]
product | 9-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 16% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)O | InChI=1S/C17H20N2O3.ClH/c1-3-22-17(21)19-8-6-13-11(2)14-10-12(20)4-5-15(14)18-16(13)7-9-19;/h4-5,10,20H,3,6-9H2,1-2H3;1H
